US06310211B1
N-[5-(4-Chlorophenyl)-4,5-dihydro-4-oxo-2-thiazolyl]-8-hydroxy-7-quinolinecarboxamide (Formula E-3 wherein X is —Cl) Refer to Chart E
A solution of 8-hydroxyquinoline-7-carboxylic acid (0.280 g) of Preparation 1 and 2-amino-5-(4-chlorophenyl)-4-hydroxy-1,3-thiazole (0.340 g) in 50 mL xylenes is heated to reflux. To this is added dropwise PCl3 (0.103 g). Refluxing is continued overnight. The reaction is then cooled and water is added to destroy excess PCl3. The resulting solid is collected, washed with water and dried. The crude product is triturated with HOAc to yield 0.236 g of the title product as a gold solid.

reactant | 8-hydroxyquinoline-7-carboxylic acid | 0.280 g | OC=1C(=CC=C2C=CC=NC12)C(=O)O | C10H7NO3
reactant | 2-amino-5-(4-chlorophenyl)-4-hydroxy-1,3-thiazole | 0.340 g | NC=1SC(=C(N1)O)C1=CC=C(C=C1)Cl | C9H7ClN2OS
reactant | PCl3 | 0.103 g | P(Cl)(Cl)Cl | Cl3P
solvent | water | O | H2O
product | N-[5-(4-Chlorophenyl)-4,5-dihydro-4-oxo-2-thiazolyl]-8-hydroxy-7-quinolinecarboxamide | 0.236 g | ClC1=CC=C(C=C1)C1C(N=C(S1)NC(=O)C1=CC=C2C=CC=NC2=C1O)=O | C19H12ClN3O3S
